US07737143B2
6-Chloro-N-methyl-N-[(1S)-1-phenylethyl]pyrazin-2-amine
In an analogous fashion to example 1, N-methyl-N-[(1S)-1-phenylethyl]amine (0.27 g, 2.0 mmol) was condensed with 2,6-dichloropyrazine (0.36 g, 2.4 mmol), to furnish the desired product as a light brown solid (192 mg, 39%).

reactant | N-methyl-N-[(1S)-1-phenylethyl]amine | 2.0 mmol, 0.27 g | CN[C@@H](C)C1=CC=CC=C1 | C9H13N
reactant | 2,6-dichloropyrazine | 2.4 mmol, 0.36 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-methyl-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 192 mg, 39% | ClC1=CN=CC(=N1)N([C@@H](C)C1=CC=CC=C1)C | C13H14ClN3
